US05952350
1-[2-[3-[2-(4-Hydroxyphenyl)-6-hydroxynaphth-1-yl]phenyloxy]ethyl]piperidine
1.5 g (3 mmol) of 1-[2-[3-[2-(4-methoxyphenyl)-6-methoxynaphth-1-yl]phenyloxy]ethyl]piperidine hydrochloride was dissolved in 100 mL of CH2Cl2 and cooled to 0° C. 0.7 mL (7.5 mmol) of BBr3 was slowly added and the reaction allowed to proceed for twenty-four hours. An additional 3 mL of BBr3 was added and the reaction was continued for two more hours. The reaction was quenched by pouring into water, followed by three extractions with EtOH--CHCl3 (1:9) (v/v). The organic extracts were combined, washed twice with brine, dried with Na2SO4, and evaporated to dryness. The final product was purified by chromatography on a silica gel column eluted with a linear gradient begining with CH2Cl2 and ending with CH2Cl2 --MeOH (9:1) (v/v). This yielded 0.5 g of the title compound as a white amorphous powder.

reactant | 1-[2-[3-[2-(4-methoxyphenyl)-6-methoxynaphth-1-yl]phenyloxy]ethyl]piperidine hydrochloride | 3 mmol, 1.5 g | Cl.COC1=CC=C(C=C1)C1=C(C2=CC=C(C=C2C=C1)OC)C=1C=C(C=CC1)OCCN1CCCCC1
reactant | BBr3 | 7.5 mmol, 0.7 mL | B(Br)(Br)Br | BBr3
reactant | BBr3 | 3 mL | B(Br)(Br)Br | BBr3
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
product | 1-[2-[3-[2-(4-Hydroxyphenyl)-6-hydroxynaphth-1-yl]phenyloxy]ethyl]piperidine | OC1=CC=C(C=C1)C1=C(C2=CC=C(C=C2C=C1)O)C=1C=C(C=CC1)OCCN1CCCCC1 | C29H29NO3
